US04945182
Preparation of (S)-2-[5-methyl-2-(2-phenyl-3-(2-(1,1-dimethylethyl)oxazolidin-5-yl-methoxy)phenyl]ethanol
To a stirred solution of 7.3 g (0.048 mol) of 2-(2-hydroxy-5-methylphenyl)ethanol in 30 ml of dry DMF was added 1.91 g (0.048 mol) of sodium hydride (60% in mineral oil). The mixture was stirred at room temperature until hydrogen evolution ceased, and the solution was heated at 60° C. for 30 minutes to insure complete reaction. The solution was cooled to room temperature, and to this solution was added 18.29 g of 3-(1,1-dimethylethyl)-2-phenyl-5-(toluenesulfonyloxymethyl)oxazolidine prepared by the reaction of 11.29 g (0.048 mol) of (S)-3-tert-butyl-5-hydroxymethyl-2-phenyloxazolidine with 9.15 g (0.048 mol) of p-tosylchloride. The solution was heated at 120° C. overnight. The cooled solution was poured onto 600 ml of water and this mixture was extracted with four 150 ml portions of ethyl acetate. The combined ethyl acetate extracts were washed with water, dilute sodium hydroxide solution, water, and brine. The solution was dried over sodium sulfate, filtered, and concentrated in vacuo to afford 16.1 g of crude product.

reactant | 2-(2-hydroxy-5-methylphenyl)ethanol | 0.048 mol, 7.3 g | OC1=C(C=C(C=C1)C)CCO | C9H12O2
reactant | sodium hydride | 0.048 mol, 1.91 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 3-(1,1-dimethylethyl)-2-phenyl-5-(toluenesulfonyloxymethyl)oxazolidine | 18.29 g | CC(C)(C)N1C(OC(C1)COS(=O)(=O)C=1C(=CC=CC1)C)C1=CC=CC=C1 | C21H27NO4S
reactant | (S)-3-tert-butyl-5-hydroxymethyl-2-phenyloxazolidine | 0.048 mol, 11.29 g | C(C)(C)(C)N1[C@@H](OC(C1)CO)C1=CC=CC=C1 | C14H21NO2
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | 600 ml | O | H2O
product | 5-methyl-2-(2-phenyl-3-(2-(1,1-dimethylethyl)oxazolidin-5-yl-methoxy)phenyl]ethanol | 16.1 g | CC=1C=C(C(=C(C1)CCO)C1=CC=CC=C1)OCC1CNC(O1)C(C)(C)C | C23H31NO3
